US04163760
A 1-liter autoclave was charged with 5 g of azobisisobutyronitrile, 50 g of benzene and 112 g (1 mol) of 1-octene, and 136 g (4 mols) of hydrogen phosphide was condensed thereinto. The whole was heated to 90° C. The pressure initially rose to 70 bars, then dropped gradually to 55 bars, and remained constant after 5 hours. The reaction mixture was analyzed by NMR-spectroscopy. The octene conversion rate was 85%. Primary octylphosphine was obtained in a yield of 70%, secondary octylphosphine was obtained in a yield of 20%, and tertiary octylphosphine was obtained in a yield at 10%, based on the quantity of 1-octene which underwent conversion.

reactant | azobisisobutyronitrile | 5 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 1-octene | 1 mol, 112 g | C=CCCCCCC | C8H16
reactant | hydrogen phosphide | 4 mols, 136 g | P | H3P
solvent | benzene | 50 g | C1=CC=CC=C1 | C6H6
product | octylphosphine | yield of 70% | C(CCCCCCC)P | C8H19P
